US05246948
ii) Synthesis of 4-[3-(N-dodecyl-N-trifluoroacetylamino)propylthio]pyridine
To a solution of 2.86 g (8.5 mmol) of 4-[3-(N-dodecylamino)propylthio]pyridine and 1.2 ml (8.5 mmol) of triethylamine in 30 ml of methylene chloride, 1.2 ml (8.5 mmol) of trifluoroacetic anhydride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/hexane=1:1) to obtain 1.72 g of the desired compound (yield: 48.6%, yellow oil).

reactant | 4-[3-(N-dodecylamino)propylthio]pyridine | 8.5 mmol, 2.86 g | C(CCCCCCCCCCC)NCCCSC1=CC=NC=C1 | C20H36N2S
reactant | triethylamine | 8.5 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 8.5 mmol, 1.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(N-dodecyl-N-trifluoroacetylamino)propylthio]pyridine | 1.72 g, yield: 48.6% | C(CCCCCCCCCCC)N(C(C(F)(F)F)=O)CCCSC1=CC=NC=C1 | C22H35F3N2OS
